US05015640
starting from ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate and cyclohexanecarboxylic acid chloride, there is obtained ethyl N-cyclohexylcarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate as a resin, mass spectrum m/e: M+ 376 (13), 347 (16), 293 (100), 194 (60);

reactant | ethyl 5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1=CC=CC=2CN(CC3=C(C21)C=CC=C3)C(OCC)=N | C17H18N2O
reactant | cyclohexanecarboxylic acid chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
product | ethyl N-cyclohexylcarbonyl-5,7-dihydro-6H-dibenz[c,e]azepine-6-carboximidate | C1(CCCCC1)C(=O)N=C(OCC)N1CC2=C(C3=C(C1)C=CC=C3)C=CC=C2 | C24H28N2O2
